US04375471
4-(p-Chlorophenoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
A solution of 1,2,3,4-tetrahydro-2-methyl-4-isoquinolinol (3.3 g, 0.020 mole) in dry DMF is added dropwise under nitrogen to a suspension of sodium hydride 50% (98%) (1.6 g, 0.033 mole), previously washed with hexane, in 40 ml dry DMF, at 65° C. After the evolution of gas ceases, a solution of p-chlorofluorobenzene (3.6 g, 0.028 mole) in 15 ml dry DMF is added slowly, and the resulting mixture is allowed to stir at 75° C. for 16 hours. After cooling to room temperature the solution is poured into water (110 ml), extracted with chloroform, the chloroform phase is washed twice with water, dried (saturated NaCl, anhydrous MgSO4) and removed via reduced pressure to yield an oil which is purified by dry column chromatography, over silica gel using ethyl acetate as the eluent. The desired product is crystallized from ether as the hydrochloride salt, yielding 1.9 g (31%) of a solid of 4-(p-chlorophenoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloride, d@92° C.

reactant | 1,2,3,4-tetrahydro-2-methyl-4-isoquinolinol | 0.020 mole, 3.3 g | CN1CC2=CC=CC=C2C(C1)O | C10H13NO
reactant | sodium hydride | 0.033 mole, 1.6 g | [H-].[Na+]
reactant | p-chlorofluorobenzene | 0.028 mole, 3.6 g | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | water | 110 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(p-Chlorophenoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.9 g, 31% | Cl.ClC1=CC=C(OC2CN(CC3=CC=CC=C23)C)C=C1 | InChI=1S/C16H16ClNO.ClH/c1-18-10-12-4-2-3-5-15(12)16(11-18)19-14-8-6-13(17)7-9-14;/h2-9,16H,10-11H2,1H3;1H
